US07585885B2
(S)-2-sec-Butylamino-6-(2,2-difluoropropyl)-isonicotinic acid methyl ester
Dissolve 2-chloro-6-(2,2-difluoropropyl)-isonicotinic acid methyl ester-(150 mg, 0.6 mmol), palladium (II) acetate (224.0 mg, 1.0 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (37 mg, 0.06 mmol) and cesium carbonate (293 mg, 0.9 mmol) in toluene (2 mL) in a previously degassed sealed vessel. Flush the mixture with nitrogen gas. Add (S)-(+)-sec-butylamine (0.07 mL, 0.72 mmol) to the solution under nitrogen and heat the sealed mixture overnight at 100° C. Cool the reaction to room temperature. Dilute with diethyl ether and filter through a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 5:95 ethyl acetate:hexanes) to give the title compound as an oil (58%).

reactant | 2-chloro-6-(2,2-difluoropropyl)-isonicotinic acid methyl ester- | 0.6 mmol, 150 mg | COC(C1=CC(=NC(=C1)CC(C)(F)F)Cl)=O | C10H10ClF2NO2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.06 mmol, 37 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 0.9 mmol, 293 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(+)-sec-butylamine | 0.72 mmol, 0.07 mL | [C@H](C)(CC)N | C4H11N
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium (II) acetate | 1.0 mmol, 224.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-2-sec-Butylamino-6-(2,2-difluoropropyl)-isonicotinic acid methyl ester | 58% | COC(C1=CC(=NC(=C1)CC(C)(F)F)N[C@@H](C)CC)=O | C14H20F2N2O2
